US07582625B2
1.20a) (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-(4-morpholin-4-yl-piperidin-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 1i from 70 mg (0.15 mmol) (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 25 mg (0.15 mmol) 4-piperidin-4-yl-morpholine.

reactant | (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.15 mmol, 70 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)C)C(=O)O)C=CC=C2 | C26H31N3O6
reactant | 4-piperidin-4-yl-morpholine | 0.15 mmol, 25 mg | N1CCC(CC1)N1CCOCC1 | C9H18N2O
product | (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-(4-morpholin-4-yl-piperidin-1-yl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCOCC1)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C35H47N5O6
